US03971797
To a suspension of 0.2 gm. of lithium aluminum hydride in 100 ml. of dry tetrahydrofuran was added 0.004 mole of 5,5'-(dithiodimethylene)bis[8-methyl-2-phenyl-4H-m-dioxino[4,5-c]pyridine]. The reaction mixture was stirred for 3 hours at 0°-5°. At this time there was added to the reaction mixture 100 ml. of benzene, 50 ml. of water, and 20 gm. ammonium chloride. The organic layer was separated and the aqueous extracted 2 times with 50 ml. of benzene. The combined benzene extracts were washed well with water, dried over sodium sulfate, and concentrated in vacuo. Chromatography on silica gel (250 gm.) and elution with ether gave 5-mercaptomethyl-8-methyl-2-phenyl-4H-m-dioxino[4,5-c]pyridine, m.p. 110°-112°C.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 5,5'-(dithiodimethylene)bis[8-methyl-2-phenyl-4H-m-dioxino[4,5-c]pyridine] | 0.004 mole | C(SSCC1=C2C(=C(N=C1)C)OC(OC2)C2=CC=CC=C2)C2=C1C(=C(N=C2)C)OC(OC1)C1=CC=CC=C1 | C30H28N2O4S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-mercaptomethyl-8-methyl-2-phenyl-4H-m-dioxino[4,5-c]pyridine | SCC1=C2C(=C(N=C1)C)OC(OC2)C2=CC=CC=C2 | C15H15NO2S
